US04640708
3-Chloro-1-methyl-5,6,7,8-tetrahydroisoquinoline-4-carboxaldehyde (4.0 g) was stirred with a few drops of a 2% aqueous sodium hydroxide solution in aqueous acetone (1:2 v/v; 20 ml) at room temperature for 4 hr. The mixture was poured into water which was then extracted with diethyl ether. The residue obtained after evaporation of the dried (MgSO4) organic extract was purified by column chromatography over silica with dichloromethane elution to give 1-(3-chloro-1-methyl-5,6,7,8-tetrahydroisoquinolin-4-yl)-but-1-en-3-one as white crystals, mp 90° C.

reactant | 3-Chloro-1-methyl-5,6,7,8-tetrahydroisoquinoline-4-carboxaldehyde | 4.0 g | ClC=1N=C(C=2CCCCC2C1C=O)C | C11H12ClNO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | O | H2O
reactant | acetone | 20 ml | CC(=O)C | C3H6O
product | 1-(3-chloro-1-methyl-5,6,7,8-tetrahydroisoquinolin-4-yl)-but-1-en-3-one | ClC=1N=C(C=2CCCCC2C1C=CC(C)=O)C | C14H16ClNO
